data/oMe_Silver.jsonl
{"reaction_id": "NR-111_1-CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2_2-CC_3-C(F)(F)F_4-C(F)(F)F_5-C(C)(C)C_6-CC_7-c1ccccc1","name": "Hosomi-Sakurai Reaction","level": "medium","reactants_smiles": ["C(=C(C(F)(F)F)C(C)(C)C)(C(F)(F)F)C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(CC)[Si](C)(C)C","C(=O)(CC)c1ccccc1","Cl[Ti](Cl)(Cl)Cl"],"products_smiles": ["C(=C(C(F)(F)F)C(C)(C)C)(C(F)(F)F)C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(CC)C(O)(CC)c1ccccc1"],"conditions": "Lewis Acid","mechanism": [{"step": 1,"type": "coordination","subtype": "lewis_acid_base_coordination","intermediate_smiles": "C(=[O+][Ti](Cl)(Cl)Cl)(CC)c1ccccc1","rationale": "TiCl4, a strong Lewis acid, coordinates to the carbonyl oxygen, withdrawing electron density and increasing the electrophilicity of the carbonyl carbon for nucleophilic attack."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[Si](C)(C)(C)C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(CC)[C+](C(F)(F)F)C(C(F)(F)F)(C(C)(C)C)C(O[Ti](Cl)(Cl)Cl)(CC)c1ccccc1","rationale": "The allylsilane attacks the activated carbonyl; β-silicon stabilization of the developing carbocation lowers the activation barrier under Lewis acidic conditions."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=C(C(F)(F)F)C(C)(C)C)(C(F)(F)F)C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(CC)C(O[Ti](Cl)(Cl)Cl)(CC)c1ccccc1","rationale": "Loss of the silyl group occurs as the β-silyl carbocation collapses, restoring the alkene and forming a C–O–Ti bond, driven by the stability of the alkene and Ti–O bond."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=C(C(F)(F)F)C(C)(C)C)(C(F)(F)F)C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(CC)C(O)(CC)c1ccccc1","rationale": "Proton transfer from solvent or medium to the alkoxide–Ti complex releases the neutral alcohol, favored by the strong Ti–O bond cleavage upon protonation."}],"description": "In the Hosomi–Sakurai reaction, a Lewis acid activates the carbonyl toward nucleophilic attack by an allylsilane. Titanium tetrachloride coordinates to the carbonyl oxygen, enhancing electrophilicity. The allylsilane attacks, forming a β-silyl carbocation stabilized by hyperconjugation. Elimination regenerates the alkene, and proton transfer yields the alcohol product."}
{"reaction_id": "NR-331_1-c1ccc(C(F)(F)F)cc1_2-c1ccccc1_3-F_4-C1CCCCC1_5-c1ccccc1","level": "easy","name": "Reformatsky Reaction","reactants_smiles": ["C(Br)(c1ccccc1)(F)C(=O)Oc1ccc(C(F)(F)F)cc1","O=C(C1CCCCC1)c1ccccc1","[Zn]"],"products_smiles": ["C(C(O)(C1CCCCC1)c1ccccc1)(c1ccccc1)(F)C(=O)Oc1ccc(C(F)(F)F)cc1"],"conditions": "1. Zn dust; 2. Aqueous workup","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "c1ccc(C(F)(F)F)cc1OC(=O)C(c1ccccc1)(F)[Zn]Br","step_weight": 0,"rationale": "Zinc undergoes oxidative addition into the C–Br bond due to the electrophilicity of the α-carbon adjacent to the ester carbonyl, forming a stabilized organozinc species that is less reactive than a Grignard reagent."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C([O-])(C1CCCCC1)c1ccccc1)(c1ccccc1)(F)C(=O)Oc1ccc(C(F)(F)F)cc1.[Zn+2].[Br-]","step_weight": 0,"rationale": "The organozinc reagent acts as a soft nucleophile, attacking the electrophilic carbonyl carbon of the aldehyde; the ester group remains intact due to the mild nucleophilicity of zinc enolates."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(O)(C1CCCCC1)c1ccccc1)(c1ccccc1)(F)C(=O)Oc1ccc(C(F)(F)F)cc1","step_weight": 0,"rationale": "Aqueous workup protonates the alkoxide intermediate, driven by the strong thermodynamic preference for neutral alcohol formation under acidic or neutral conditions."}],"description": "Zinc inserts into the α-bromo ester via oxidative addition, forming an organozinc reagent. This nucleophilic species adds to the aldehyde, generating an alkoxide intermediate. Aqueous workup protonates the alkoxide, yielding the β-hydroxy ester product characteristic of the Reformatsky reaction."}
